US06903129B2
A mixture of 92 mg (0.2 mmol) (R)-1-[6-[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester and 30 mg 10% palladium/carbon in 5 ml ethylacetate was hydrogenated over night. Filtration and removal of the solvent yielded 70 mg (R)-1-[6[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid as a light yellow oil, MS m/e (%): 369 (M+H+, 100).

reactant | (R)-1-[6-[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 0.2 mmol, 92 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)OCC)=O | C25H34N2O6
solvent | ethylacetate | 5 ml | C(C)OC(C)=O | C4H8O2
catalyst | palladium/carbon | 30 mg | [Pd] | Pd
product | (R)-1-[6[(R)-2-ethoxycarbonyl-pyrrolidin-1-yl]-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 70 mg | C(C)OC(=O)[C@@H]1N(CCC1)C(CCCCC(=O)N1[C@H](CCC1)C(=O)O)=O | C18H28N2O6
